US08809372B2
2-bromo-5-(4-fluorophenyl)pyrazine (115 mg, 0.4 mmol) in THF (10 mL) was cooled to −78° C., 1.6 M n-BuLi in hexane (0.56 mL, 0.8 mmol) added slowly at −78° C., the reaction mixture was stirred for 10 min at −78° C., and 1-(pyridin-4-yl)ethanone (54 mg, 0.4 mmol) in THF (3 mL) was added. The resulting mixture was stirred at −78° C. for 1 h. The reaction mixture was quenched with saturated NH4Cl solution (10 mL) and extracted with ethyl acetate (2×200 mL). The combined extracts were washed with brine solution (20 mL), dried over Na2SO4, filtered and concentrated under vacuum to obtain crude product. The crude product was purified by preparative TLC (mobile phase: 60% ethyl acetate in hexane) to afford 1-(5-(4-fluorophenyl)pyrazin-2-yl)-1-(pyridin-4-yl)ethanol as off-white solid (32 mg, 24% yield) in 98.7% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 9.13 (s, 1H), 8.93 (s, 1H), 8.48 (d, 2H), 8.16-8.13 (m, 2H), 7.49 (d, 2H), 7.34 (t, 2H), 6.43 (s, 1H), 1.90 (s, 3H); LC-MS m/z calculated for [M+H]+ 296.11, found 296.1.

reactant | 2-bromo-5-(4-fluorophenyl)pyrazine | 0.4 mmol, 115 mg | BrC1=NC=C(N=C1)C1=CC=C(C=C1)F | C10H6BrFN2
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 0.8 mmol, 0.56 mL | CCCCCC | C6H14
reactant | 1-(pyridin-4-yl)ethanone | 0.4 mmol, 54 mg | N1=CC=C(C=C1)C(C)=O | C7H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(5-(4-fluorophenyl)pyrazin-2-yl)-1-(pyridin-4-yl)ethanol | 32 mg, 24% yield | FC1=CC=C(C=C1)C=1N=CC(=NC1)C(C)(O)C1=CC=NC=C1 | C17H14FN3O
